### PR TITLE
feat(ErdosProblems): 413

### PR DESCRIPTION
**Pull request by conglu1997**
Closes https://github.com/google-deepmind/formal-conjectures/issues/716 with the help of codex :)

### CODE REVIEW

File: FormalConjectures/ErdosProblems/413.lean [hunk 1]
```diff
@@ -0,0 +1,77 @@
...
+satisfy `m + ε · ω(m) ≤ n` for every `m < n`.
+-/
+
+open scoped ArithmeticFunction
+
+namespace Erdos413
+
+/-- `barrier f n` means `n` is a barrier for the function `f`,
+    i.e. `m + f m ≤ n` for all `m < n`. -/
+def barrier (f : ℕ → ℕ) (n : ℕ) : Prop := ∀ m < n, m + f m ≤ n
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/413.lean]:
```suggestion
def IsBarrier (f : ℕ → ℕ) (n : ℕ) : Prop := ∀ m < n, m + f m ≤ n
```

File: FormalConjectures/ErdosProblems/413.lean [hunk 2]
```diff
@@ -0,0 +1,77 @@
...
+even posed a relaxed variant asking whether there is some `ε > 0` for which infinitely many `n`
+satisfy `m + ε · ω(m) ≤ n` for every `m < n`.
+-/
+
+open scoped ArithmeticFunction
+
+namespace Erdos413
+
+/-- `barrier f n` means `n` is a barrier for the function `f`,
+    i.e. `m + f m ≤ n` for all `m < n`. -/
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/413.lean]:
```suggestion
i.e. `m + f m ≤ n` for all `m < n`. -/
```

File: FormalConjectures/ErdosProblems/413.lean [hunk 3]
```diff
@@ -0,0 +1,77 @@
...
+def barrier (f : ℕ → ℕ) (n : ℕ) : Prop := ∀ m < n, m + f m ≤ n
+
+/-- Are there infinitely many barriers for `ω`? -/
+@[category research open, AMS 11]
+theorem erdos_413 : ({ n | barrier ω n }.Infinite) ↔ answer(sorry) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/413.lean]: We have switched to
```suggestion
theorem erdos_413 : answer(sorry) ↔ {n | barrier ω n}.Infinite := by
```
same below

File: FormalConjectures/ErdosProblems/413.lean [hunk 4]
```diff
@@ -0,0 +1,77 @@
...
+  sorry
+
+/-- `expProd n` is `∏ kᵢ` when `n = ∏ pᵢ ^ kᵢ`, i.e. the product of the prime exponents of `n`. -/
+def expProd (n : ℕ) : ℕ :=
+  n.factorization.support.prod fun p => n.factorization p
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/413.lean]:
```suggestion
  n.factorization.prod fun p => id
```

File: FormalConjectures/ErdosProblems/413.lean [hunk 5]
```diff
@@ -0,0 +1,77 @@
...
+
+/-- Erdős proved that the barrier set for `expProd` is infinite and even has positive density. -/
+@[category research solved, AMS 11]
+theorem erdos_413_expProd_barrier_pos_density :
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/413.lean]:
```suggestion
theorem erdos_413_hasPosDensity_barrier_expProd :
```

File: FormalConjectures/ErdosProblems/413.lean [hunk 6]
```diff
@@ -0,0 +1,77 @@
...
+  sorry
+
+/-- `barrierWith ε f n` records the relaxed barrier inequality `(m : ℝ) + ε * f m ≤ n` for all `m < n`. -/
+def barrierWith (ε : ℝ) (f : ℕ → ℕ) (n : ℕ) : Prop :=
+  ∀ m < n, (m : ℝ) + ε * (f m : ℝ) ≤ (n : ℝ)
+
+/-- Does there exist some `ε > 0` such that there are infinitely many `ε`-barriers for `ω`? -/
+@[category research open, AMS 11]
+theorem erdos_413_epsilon :
+    (∃ ε > (0 : ℝ), { n | barrierWith ε ω n }.Infinite) ↔ answer(sorry) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/413.lean]: Why not instead
```suggestion
    (∃ ε > (0 : ℝ), { n | IsBarrier (ε \smul ω) n }.Infinite) ↔ answer(sorry) := by
```
? You will need to change `IsBarrier` to take in a real-valued function

**Comment by conglu1997** [comment]
Thanks so much for all the feedback, all integrated!

File: FormalConjectures/ErdosProblems/413.lean [hunk 7]
```diff
@@ -0,0 +1,76 @@
...
+-/
+
+open scoped ArithmeticFunction
+
+namespace Erdos413
+
+/-- `IsBarrier f n` means `n` is a barrier for the real-valued function `f`,
+i.e. `(m : ℝ) + f m ≤ (n : ℝ)` for all `m < n`. -/
+def IsBarrier (f : ℕ → ℝ) (n : ℕ) : Prop :=
+  ∀ m < n, (m : ℝ) + f m ≤ (n : ℝ)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/413.lean]:
```suggestion
  ∀ m < n, (m : ℝ) + f m ≤ n
```

File: FormalConjectures/ErdosProblems/413.lean [hunk 8]
```diff
@@ -0,0 +1,76 @@
...
+
+/-- Are there infinitely many barriers for `ω`? -/
+@[category research open, AMS 11]
+theorem erdos_413 :
+    answer(sorry) ↔ { n | IsBarrier (fun m => (ω m : ℝ)) n }.Infinite := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/413.lean]:
```suggestion
    answer(sorry) ↔ { n | IsBarrier (fun m => ω m) n }.Infinite := by
```
and below

**Comment by conglu1997** [comment]
Cleaned everywhere!

**Review by YaelDillies — APPROVED** [review]
Thanks!
